US05739129
1H-Indole-2-carboxylic acid {1-[Isopropyl-(4-methoxy-phenyl)-carbamoylmethyl]-2,4-dioxo-5-pyrdin-2-yl-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-yl}-amide
A solution of 2-(3-Amino-2,4-dioxo-5-pyrdin-2-yl-2,3,4,5-tetrahydrobenzo[b][1,4]diazepin-1-yl)-N-isopropyl-N-(4-methoxy-phenyl)-acetamide (276 mg), BOP (244 mg), HOBT (78 mg), DMAP (69 mg) and indole-2-carboxylic acid (98 mg) in DMF (1 ml) was stirred at rt for 18 h. The reaction mixture was diluted with ethyl acetate (15 ml), washed with 1N aqueous sodium hydroxide solution (2×15 ml), water (20 ml), brine (20 ml), dried (K2CO3) and concentrated in vacuo to afford the cude product. Purification by RP-HPLC utilizing a linear gradient (20% A, 80% B to 90% B, 10% C, 30 min) gave the title product (26.6 mg) as a white lyophile;Tr=21.3 min. 1H NMR (300 MHz, CDCl3); 0.98 (2×d, J=7 Hz, 6H), 3.68 (s, 3H), 4.17 (d J=16.6 Hz, 1H), 4.37 (d, J=16.8 Hz, 1H), 4.87 (sept, J=6.8 Hz, 1H), 5.40 (d, J =6.8 Hz, 1H), 6.40 (d, J=5.3 Hz, 1H), 6.75-6.84 (m, 5H), 6.92-6.99 (m, 2H), 7.07 (t, J=7.3 Hz, 1H), 7.09-7.2 (m, 4H), 7.24 (t, J=9.2 Hz, 1H), 7.40 (t, J=9.1 Hz, 2H), 7.52 (d J=7.9 Hz, 1H), 7.72 (m, 2H), 8.38 (d, J=4.4 Hz, 1H), 9.19 (s, 1H). m/z [MH]+ =617.

reactant | 2-(3-Amino-2,4-dioxo-5-pyrdin-2-yl-2,3,4,5-tetrahydrobenzo[b][1,4]diazepin-1-yl)-N-isopropyl-N-(4-methoxy-phenyl)-acetamide | 276 mg | NC1C(N(C2=C(N(C1=O)CC(=O)N(C1=CC=C(C=C1)OC)C(C)C)C=CC=C2)C2=NC=CC=C2)=O | C26H27N5O4
reactant | BOP | 244 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | HOBT | 78 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | indole-2-carboxylic acid | 98 mg | N1C(=CC2=CC=CC=C12)C(=O)O | C9H7NO2
reactant | DMF | 1 ml | CN(C)C=O | C3H7NO
catalyst | DMAP | 69 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | ethyl acetate | 15 ml | C(C)(=O)OCC | C4H8O2
product | 1H-Indole-2-carboxylic acid {1-[Isopropyl-(4-methoxy-phenyl)-carbamoylmethyl]-2,4-dioxo-5-pyrdin-2-yl-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-yl}-amide | 26.6 mg | C(C)(C)C(N1C2=C(N(C(C(C1=O)NC(=O)C=1NC3=CC=CC=C3C1)=O)C1=NC=CC=C1)C=CC=C2)(C(N)=O)C2=CC=C(C=C2)OC | C35H32N6O5
